US06013662
240 mg of tetrakis(triphenylphosphine)palladium and then a solution of 0.69 g of 2-naphthylboronic acid, isolated in the trimer anhydride form, in 20 cm3 of methanol were added to a solution of 2 g of methyl(3aRS,4SR,7aRS)-2-benzyl-7-iodo-4-phenyl-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate in 40 cm3 of toluene. 45 cm3 of a 2N aqueous sodium carbonate solution were added dropwise and the reaction mixture is brought to reflux for four hours. After cooling, 80 cm3 of water and 60 cm3 of ethyl acetate were added. The organic phase was separated by settling, washing with water to neutrality and dried over magnesium sulphate. After concentrating the solvent under reduced pressure, the residue was purified by flash chromatography on silica gel (230-400 mesh), elution being carried out with a mixture of cyclohexane and of ethyl acetate (90/10 by volume). 1.33 g (67%) of methyl(3aRS,4SR,7aRS)-2-benzyl-7-(2-naphthyl)-4-phenyl-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate were thus obtained in the form of a white foam, the characteristic of which was as follows:

reactant | methyl(3aRS,4SR,7aRS)-2-benzyl-7-iodo-4-phenyl-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate | 2 g | COC(=O)C12CN(CC2C(=CCC1C1=CC=CC=C1)I)CC1=CC=CC=C1 | C23H24INO2
reactant | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 80 cm3 | O | H2O
reactant | ethyl acetate | 60 cm3 | C(C)(=O)OCC | C4H8O2
solvent | toluene | 40 cm3 | C1(=CC=CC=C1)C | C7H8
product | methyl(3aRS,4SR,7aRS)-2-benzyl-7-(2-naphthyl)-4-phenyl-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate | 1.33 g, 67% | COC(=O)C12CN(CC2C(=CCC1C1=CC=CC=C1)C1=CC2=CC=CC=C2C=C1)CC1=CC=CC=C1 | C33H31NO2
